US06846946B2
Ethyl Phenoxyacetate
The three-necked 500 mL flask was filled with phenol (1.89 g, 20 millimoles, Aldrich, 99+%), sodium hydroxide (1.76 g, 50% w/w solution in water, 22 millimoles, Aldrich), sodium iodide (0.18 g, 1 millimole, Aldrich, 98%), and water (196.78 g) and immersed in the water bath kept at 60° C. The excess molar concentration of sodium hydroxide was 0.10. The mixture was stirred mechanically at 600 rpm. Next, the organic phase consisting of ethyl chloroacetate (9.84 g, 80 millimoles, Aldrich, 99%), Aliquat 336 (0.834 g, 2 millimoles, and 3-methylanisole (GC standard, 0.490 g, 4 millimoles, Aldrich, 99%) was introduced into the flask. The organic phase: aqueous phase weight ratio was 1:18. The stirring was continued at 60° C. for several hours. The aliquots were taken every 60-90 minutes and briefly centrifuged. The organic phase was injected into the GC instrument. The yield of ethyl phnoxyacetate after 390 minutes retention time was 18%.

reactant | phenol | 20 millimoles, 1.89 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 22 millimoles, 1.76 g | [OH-].[Na+]
reactant | sodium iodide | 1 millimole, 0.18 g | [I-].[Na+]
reactant | ethyl chloroacetate | 80 millimoles, 9.84 g | ClCC(=O)OCC | C4H7ClO2
reactant | 3-methylanisole | 4 millimoles, 0.490 g | CC=1C=C(C=CC1)OC | C8H10O
catalyst | Aliquat 336 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
solvent | water | 196.78 g | O | H2O
product | Ethyl Phenoxyacetate | O(C1=CC=CC=C1)CC(=O)OCC | C10H12O3
